US06602895B2
3-Trifluoromethyl-1-(4-methoxyphenyl)-1H-pyrazole-5-carboxylic acid:
3-Trifluoromethyl-1-(4-methoxyphenyl)-1H-pyrazole-5-(N-(2′-aminosulfonyl-[1,1′]-biphen-4-yl)carboxyamide: 3-Trifluoromethyl-1-(4-methoxyphenyl)-1H-pyrazole-5-(N-(2′-N-t-butylaminosulfonyl-[1,1′]-biphen-4-yl)carboxyamide (0.66 g) was dissolved in trifluoroacetic acid (20 mL) and heated at reflux for 30 min. The reaction was evaporated, then dissolved in ethyl acetate and washed with 1N sodium hydroxide solution (2×) and brine. This solution was dried and evaporated to 0.48 g of crude product. This material was made analytically pure by first subjecting it to flash chromatography with a 200 g column of silica gel and elution with 2:1 hexane:ethyl acetate and finally recrystallizing the homogeneous chromatography product from chloroform. There was obtained 0.262 g of the title compound; mp: 237.3; CHNSF: theory %C, 55.81, %H, 3.718, %N, 10.85, % S, 6.218, %F 11.03; found %C, 56.02, %H, 3.77, %N, 10.51, % S, 5.84, %F, 11.29.

reactant | 3-Trifluoromethyl-1-(4-methoxyphenyl)-1H-pyrazole | FC(C1=NN(C=C1)C1=CC=C(C=C1)OC)(F)F | C11H9F3N2O
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Trifluoromethyl-1-(4-methoxyphenyl)-1H-pyrazole-5-carboxylic acid | 0.262 g | FC(C1=NN(C(=C1)C(=O)O)C1=CC=C(C=C1)OC)(F)F | C12H9F3N2O3
